US06252082B1
Methyl 6-methyl-4-(1-methylethoxy)-3-nitro-2-oxo-1,2-dihydropyridine-1-acetate
A solution of 11.38 g (43.4 mmol) of triphenylphosphine in 80 ml of benzene is cooled to 0° C. and 10 g (41.3 mmol) of methyl 4-hydroxy-6-methyl-3-nitro-2-oxo-1,2-dihydropyridine-1-acetate and 3.30 ml (43.37 mmol) of isopropanol are added. 6.83 ml (43.4 mmol) of diethylazodicarboxylate are then added dropwise and the mixture is left stirred for 48 hours. The reaction medium is washed successively with 50 ml of a saturated sodium hydrogen carbonate solution, 50 ml of water and 50 ml of a saturated sodium chloride solution. The medium is dried over magnesium sulphate and evaporated to dryness. The residue is purified by chromatography on a silica gel column, eluting with a dichloromethane:methanol (98:2) mixture.

reactant | triphenylphosphine | 43.4 mmol, 11.38 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl 4-hydroxy-6-methyl-3-nitro-2-oxo-1,2-dihydropyridine-1-acetate | 41.3 mmol, 10 g | OC1=C(C(N(C(=C1)C)CC(=O)OC)=O)[N+](=O)[O-] | C9H10N2O6
reactant | isopropanol | 43.37 mmol, 3.30 ml | C(C)(C)O | C3H8O
reactant | diethylazodicarboxylate | 43.4 mmol, 6.83 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | Methyl 6-methyl-4-(1-methylethoxy)-3-nitro-2-oxo-1,2-dihydropyridine-1-acetate | CC1=CC(=C(C(N1CC(=O)OC)=O)[N+](=O)[O-])OC(C)C | C12H16N2O6
